US07414067B2
N-Cyclohexyl-N-thiazol-2-yl-1-(2-chlorobenzoyl)-5-hydroxy-2-methylindole-3-acetamide
To a solution of 2 g (3.83 mmol) of N-Cyclohexyl-N-thiazol-2-yl-1-(4-chlorobenzoyl)-5-methoxy-2-methylindole-3-acetamide in 20 mL of anhydrous dichloromethane under nitrogen at −78° C. was added dropwise 1.1 mL (11.5 mmol) of boron tribromide over 15 minutes. The reaction was allowed to warm to room temperature and stirred for 20 hr before quenching with water (5 mL). The layers were separated and the organic layer dried (Na2SO4), filtered and evaporated. The residue was chromatographed on silica to give the title compound. 1H NMR (DMSO) δ 9.24 (1H, s), 7.79 (2H, bs), 7.70 (4H, m), 6.87 (1H, d), 6.81 (1H, d), 6.59 (1H, dd), 4.43 (1H, bs), 3.40 2.08 (1H, m), 1.77 (4H, m), 1.61 (1H, m), 1.32 (4H, m). 5H concealed by DMSO and water signals.

reactant | N-Cyclohexyl-N-thiazol-2-yl-1-(4-chlorobenzoyl)-5-methoxy-2-methylindole-3-acetamide | 3.83 mmol, 2 g | C1(CCCCC1)N(C(CC1=C(N(C2=CC=C(C=C12)OC)C(C1=CC=C(C=C1)Cl)=O)C)=O)C=1SC=CN1 | C28H28ClN3O3S
reactant | boron tribromide | 11.5 mmol, 1.1 mL | B(Br)(Br)Br | BBr3
reactant | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | N-Cyclohexyl-N-thiazol-2-yl-1-(2-chlorobenzoyl)-5-hydroxy-2-methylindole-3-acetamide | C1(CCCCC1)N(C(CC1=C(N(C2=CC=C(C=C12)O)C(C1=C(C=CC=C1)Cl)=O)C)=O)C=1SC=CN1 | C27H26ClN3O3S
